US07919628B2
A stirred solution of 2.08 g of 5-fluoro-1-methoxynaphthalene in 42 ml of dry dichloromethane was cooled to −60 to −65° C. after which was added 13 ml of 1M BBr3 in dichloromethane. The mixture was allowed to warm to room temperature, and stirred at RT for 1 h. The reaction mixture was again cooled to −60 to −65° C. after which was added an additional 13 ml of 1M BBr3 in dichloromethane. The mixture was allowed to warm to RT and stirred at RT for 1.5 h. The mixture was poured into cold water, extracted twice with dichloromethane, dried (sodium sulphate), filtered and concentrated to a purple/white solid. The material was dissolved in a minimum volume of dichloromethane and flash chromatographed on silica gel, eluting with ethyl acetate/dichloromethane/heptane to provide 1.58 g (83%) of 5-fluoro-1-hydroxynaphthalene as a white solid.

reactant | 5-fluoro-1-methoxynaphthalene | 2.08 g | FC1=C2C=CC=C(C2=CC=C1)OC | C11H9FO
reactant | BBr3 | 1M, 13 ml | B(Br)(Br)Br | BBr3
reactant | BBr3 | 1M, 13 ml | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | 42 ml | ClCCl | CH2Cl2
product | 5-fluoro-1-hydroxynaphthalene | 1.58 g, 83% | FC1=C2C=CC=C(C2=CC=C1)O | C10H7FO
